US08609847B2
(2) Preparation of 6-[(1-cyclobutylpiperidin-4-yl)oxy]-3,4-dihydro-2H-1,3′-biquinolin-2-one (Compound No. 58)
A suspension of 6-(1-cyclobutylpiperidin-4-yloxy)-3,4-dihydroquinolin-2(1H)-one synthesized in Example 4-(1) (0.10 g), 3-bromoisoquinoline (0.10 g), rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.047 g), copper iodide (0.016 g) and cesium carbonate (0.22 g) in toluene (1 mL) was stirred at 110° C. for 3 hours. The reaction mixture was cooled to room temperature, diluted with chloroform and filtered to remove insoluble materials. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: hexane/ethyl acetate=4/1 to 1/4) and OH-type preparative TLC (on two plates of 1 mm thickness, developing solvent: chloroform/methanol=4/1) to give the titled compound (0.061 g, 44%) as a colorless amorphous substance.

reactant | 6-(1-cyclobutylpiperidin-4-yloxy)-3,4-dihydroquinolin-2(1H)-one | C1(CCC1)N1CCC(CC1)OC=1C=C2CCC(NC2=CC1)=O | C18H24N2O2
reactant | 3-bromoisoquinoline | 0.10 g | BrC=1N=CC2=CC=CC=C2C1 | C9H6BrN
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.047 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 0.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | copper iodide | 0.016 g | [Cu](I)I
product | 6-[(1-cyclobutylpiperidin-4-yl)oxy]-3,4-dihydro-2H-1,3′-biquinolin-2-one | 0.061 g, 44% | C1(CCC1)N1CCC(CC1)OC=1C=C2CCC(N(C2=CC1)C=1C=NC2=CC=CC=C2C1)=O | C27H29N3O2
